US07473711B2
4-[1-(4-Cyano-3-trifluoromethyl-phenoxymethyl)-2,2-dimethyl-cyclopropoxy]-2-trifluoromethyl-benzonitrile
To 1 mL of 0.1M(molar) solutions of the 2-(4-Cyano-3-trifluoromethyl-phenoxy)-4-methyl-pentanoic acid in DMF(dimethylformamide) (0.1 mmol) were added 0.5 mL of a 0.376M solution of HOBT, 1-hydroxybenztriaole, (0.2 mmol) in DMF, 0.1 mL of a 0.1M solution of the C-furan-2-yl-methylamine (0.1 mmol) in DMF, and approximately 183 mg of silica bound carbodiimide (loading: 1.09 g/mmol, 0.2 mmol). The resultant mixtures were shaken and heated at 70° C. for approximately 18 h. The reactions were filtered and the resin thoroughly rinsed with DMF. The solvent was removed in-vacuo to obtain oils that were then purified by HPLC(high performance liquid chromatography).

reactant | 2-(4-Cyano-3-trifluoromethyl-phenoxy)-4-methyl-pentanoic acid | C(#N)C1=C(C=C(OC(C(=O)O)CC(C)C)C=C1)C(F)(F)F | C14H14F3NO3
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | C-furan-2-yl-methylamine | 0.1 mmol | O1C(=CC=C1)CN | C5H7NO
reactant | carbodiimide | 0.2 mmol | N=C=N | CH2N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-[1-(4-Cyano-3-trifluoromethyl-phenoxymethyl)-2,2-dimethyl-cyclopropoxy]-2-trifluoromethyl-benzonitrile | C(#N)C1=C(C=C(OCC2(C(C2)(C)C)OC2=CC(=C(C#N)C=C2)C(F)(F)F)C=C1)C(F)(F)F | C22H16F6N2O2
